US04517195
2-(2-Chlorobenzoyl)-5-methyl-1-phthalimidopyrrole
To a suspension of 1-phthalimido-2-methylpyrrole (105 g, 0.46 mol) and o-chlorobenzoyl chloride (162.5 g, 0.93 mol) in 1.5 liters of dichloromethane at 0° was added tin(IV) chloride (243 g, 0.94 mol) over 15 minutes. The resultant mixture was warmed to room temperatue over 30 minutes and then quenched with 2 liters of H2O. The organic layer was washed with H2O and brine, dried (MgSO4), charcoaled and filtered. Evaporation of the volatiles left an oil which was purified by flash chromatography (silica, dichloromethane) to give 126 g of powder. This powder was recrystallized from ether-petroleum ether to give 82 g (48%) of powder, m.p. 260°-262°.

reactant | 1-phthalimido-2-methylpyrrole | 0.46 mol, 105 g | C1(C=2C(C(N1N1C(=CC=C1)C)=O)=CC=CC2)=O | C13H10N2O2
reactant | o-chlorobenzoyl chloride | 0.93 mol, 162.5 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | tin(IV) chloride | 0.94 mol, 243 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | 2-(2-Chlorobenzoyl)-5-methyl-1-phthalimidopyrrole | 126 g | ClC1=C(C(=O)C=2N(C(=CC2)C)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C20H13ClN2O3
